US07495103B2
To a solution of N-{3-amino-4-[2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-phenyl}-acetamide (1.6 g, 5.7 mmol) in H2SO4 (15%, 6 mL) was added NaNO2 at 0-5° C. The mixture was stirred at this temperature for 20 min and then poured into ice water. The mixture was extracted with EtOAc (30 mL×3). The combined organic layers were washed with water and brine, dried over Na2SO4 and concentrated. The residue was purified by column chromatography (petroleum ether-EtOAc, 100: 1) to give N-{3-hydroxy-4-[2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-phenyl}-acetamide (0.7 g, 38%).

reactant | N-{3-amino-4-[2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-phenyl}-acetamide | 5.7 mmol, 1.6 g | NC=1C=C(C=CC1C(COCCOC)(C)C)NC(C)=O | C15H24N2O3
reactant | NaNO2 | N(=O)[O-].[Na+]
solvent | H2SO4 | 6 mL | OS(=O)(=O)O | H2O4S
product | N-{3-hydroxy-4-[2-(2-methoxy-ethoxy)-1,1-dimethyl-ethyl]-phenyl}-acetamide | 0.7 g, 38% | OC=1C=C(C=CC1C(COCCOC)(C)C)NC(C)=O | C15H23NO4
